US09422252B2
The crude N-{6-[(3,3,7-trimethyl-2,3-dihydro-1-benzofuran-4-yl)oxy]pyridin-3-yl}hydrazinecarboxamide (330 mg, 1.0 mmol) was suspended in EtOH (4.5 mL) and triethyl orthoacetate (3 equiv) was added, followed by p-toluenesulfonic acid hydrate (0.1 equiv). The resulting solution was heated to reflux for 24 hrs and then evaporated to dryness. Since the reaction was not complete, the residue was re-dissolved in EtOH (4.5 mL), more triethyl orthoacetate (3 equiv) and p-toluenesulfonic acid hydrate (0.1 equiv) were added and the solution stirred at reflux for additional 18 hours. The mixture was cooled to room temperature and diluted with ethyl acetate and water. Saturated Na2CO3 solution was added the layers were separated and the organic washed with brine, dried over Na2SO4 and evaporated to dryness. The residue was purified via silica chromatography, eluting with cyclohexane/ethyl acetate from 5/5 to 3/7. The fractions containing the product were combined and evaporated to dryness. The residue was further purified by triturating with methyl tert-butyl ether/n-heptanes. The solid was collected and washed with n-heptanes to afford 5-methyl-4-{6-[(3,3,7-trimethyl-2,3-dihydro-1-benzofuran-4-yl)oxy]pyridin-3-yl}-2,4-dihydro-3H-1,2,4-triazol-3-one as a white solid (177 mg).

reactant | N-{6-[(3,3,7-trimethyl-2,3-dihydro-1-benzofuran-4-yl)oxy]pyridin-3-yl}hydrazinecarboxamide | 1.0 mmol, 330 mg | CC1(COC2=C1C(=CC=C2C)OC2=CC=C(C=N2)NC(=O)NN)C | C17H20N4O3
reactant | triethyl orthoacetate | 3 equiv | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | p-toluenesulfonic acid hydrate | 0.1 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethyl orthoacetate | 3 equiv | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | p-toluenesulfonic acid hydrate | 0.1 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 4.5 mL | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-methyl-4-{6-[(3,3,7-trimethyl-2,3-dihydro-1-benzofuran-4-yl)oxy]pyridin-3-yl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 177 mg | CC=1N(C(NN1)=O)C=1C=NC(=CC1)OC1=CC=C(C2=C1C(CO2)(C)C)C | C19H20N4O3
